US04173545
A 25 g (0.1 mole) amount of p-octyloxybenzoic acid was suspended in 120 ml of water. The temperature was increased to between 50° C. and 55° C. and 17.6 g (0.11 mole) of bromine were added over a period of 7 hours at that temperature. The suspended solids were then filtered and recrystallized from ethanol and pure 4-octyloxy-3-bromobenzoic acid was obtained.

reactant | p-octyloxybenzoic acid | C(CCCCCCC)OC1=CC=C(C(=O)O)C=C1 | C15H22O3
reactant | bromine | 0.11 mole, 17.6 g | BrBr | Br2
solvent | water | 120 ml | O | H2O
product | 4-octyloxy-3-bromobenzoic acid | C(CCCCCCC)OC1=C(C=C(C(=O)O)C=C1)Br | C15H21BrO3
